US05574042
A mixture of 3-bromo-8-[2,6-dichloro-3-[N-(L-prolylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine dihydrochloride (40 mg), acetic anhydride (0.01 ml), pyridine (0.03 ml) and methylene chloride (2 ml) was stirred for 2 hours at ambient temperature. The mixture was washed with water twice, dried over magnesium sulfate, and concentrated in vacuo to give 8-[3-[N-(acetyl-L-prolylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine (31 mg).

reactant | 3-bromo-8-[2,6-dichloro-3-[N-(L-prolylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine dihydrochloride | 40 mg | Cl.Cl.BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC([C@H]2NCCC2)=O)=O)Cl)C
reactant | acetic anhydride | 0.01 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.03 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 8-[3-[N-(acetyl-L-prolylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine | 31 mg | C(C)(=O)N1[C@H](C(=O)NCC(=O)N(C)C=2C(=C(COC=3C=4N(C=CC3)C(=C(N4)C)Br)C(=CC2)Cl)Cl)CCC1 | C25H26BrCl2N5O4
